* C:\Users\Pavlo\Desktop\ShR2\SPICE Simulations\Isolation.asc
V1 N010 0 SINE(0 75 60) AC 1 0
V2 Vin N010 SINE(0 .1 10000)
R5 N011 Vin 164k
R6 N013 N011 164k
R7 0 N015 164k
C1 N011 0 .016µF
C2 N015 Vin .016µF Rser=3.9
C3 N013 N015 .016µF Rser=3.9
R8 N004 N012 1k
V3 VCC 0 10
V4 VNEG 0 -10v
C4 N011 0 .016µF
R1 0 N015 164k
R2 N009 N005 8.2k
R3 N008 N009 8.2k
R4 0 N014 8.2k
C5 N009 0 .33µF
C6 N014 N005 .33µF
C7 N008 N014 .33µF
C8 N009 0 .33µF
R9 0 N014 8.2k
XU1 0 N004 VCC VNEG N005 LTC6244HV
R17 N005 N004 1k
C14 N012 N006 1µ
XU3 N013 N006 VCC VNEG N006 LTC6244HV
R10 N001 N007 1k
XU2 0 N001 VCC VNEG N002 LTC6244HV
R11 N002 N001 15k
C9 N007 N003 1µ
XU4 N008 N003 VCC VNEG N003 LTC6244HV
.tran 0 .2 .1 .00001 uic
* This is a circuit simulation of a galvanically isolated\nsignal conditioning circuit designed to separate\ntransients from the 60Hz carrier of wall-juice, and\nto buffer the input properly for a high speed ADC.
* FM Signal
* 60Hz Main
;ac oct 30 10 125000
.lib LTC5.lib
.backanno
.end
